US04636569
(a) Synthesis of 2,4,6-trihydroxy-1,3-dimethylbenzene
0.6 kg of phloroglucinol is dissolved in 1.4 liters of dioxan and a mixture containing 0.8 liters of N,N-dimethylformamide and 0.96 liters of phosphorus oxychloride is added slowly and with vigorous stirring. The addition of the reagent having been completed, the reaction is maintained at 40° C. for 12 hours containing the stirring and then the whole is poured over 10 kg of crushed ice.

reactant | phloroglucinol | 0.6 kg | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | N,N-dimethylformamide | 0.8 liters | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.96 liters | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dioxan | 1.4 liters | O1CCOCC1 | C4H8O2
product | 2,4,6-trihydroxy-1,3-dimethylbenzene | OC1=C(C(=CC(=C1C)O)O)C | C8H10O3
